US03944560
A mixture of 3'-isopropyl-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one (7.98 g.; 25.9 mmole), dioxane (60 ml. and 45% aqueous potassium hydroxide solution (16 ml.) in a nitrogen-filled steel pressure-vessel is heated in a rocking-furnace at 150°-160° C. for 16 hours. The reaction mixture then is poured into ether (100 ml.) and the organic layer separated. The aqueous solution is extracted with ether (100 ml.) and the combined ethereal solution is washed twice with saturated sodium chloride solution (2 × 100 ml.) and then with water (100 ml.). The ethereal solution is extracted with 2.75N hydrochloric acid (40 ml.; 0.11 mole) and twice with water (2 × 40 ml.). The combined acid and aqueous extracts is basified with 2.5N sodium hydroxide solution (70 ml.; 0.175 mole) and the liberated base extracted with ether (2 × 100 ml.). After drying the ethereal solution over anhydrous magnesium sulfate and then over calcium sulfate mixed with a little charcoal, it is evaporated to an oil that soon crystallizes providing 3-hydroxy-3-isopropylaminomethyl-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin as a bright yellow solid, yield 6.33 g., (86.7%), m.p. 95-96.5` C. Recrystallization from di-isopropyl ether (63 ml.) affords 4.56 g., (62.4%) of product, m.p. 97.5°-99° C.

reactant | 3'-isopropyl-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one | 25.9 mmole, 7.98 g | C(C)(C)N1C(OC2(C1)COC1=C(OC2)C=CC(=C1)[N+](=O)[O-])=O | C14H16N2O6
reactant | potassium hydroxide | 16 ml | [OH-].[K+]
reactant | hydrochloric acid | 0.11 mole, 2.75N, 40 ml | Cl | ClH
reactant | sodium hydroxide | 0.175 mole, 2.5N, 70 ml | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-hydroxy-3-isopropylaminomethyl-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC(=C2)[N+](=O)[O-])CNC(C)C | C13H18N2O5
